US08242124B2
1-(4-Methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazole-3-carbonitrile (1 g, 4.16 mmol) and K2CO3 (0.863 g, 6.24 mmol) were combined in MeOH (20 mL) and water (20 mL). The mixture was stirred at room temperature overnight. The mixture was neutralized with 1N HCl to pH=3. The precipitate was collected by filtration to give methyl 1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazole-3-carboxylate (1.03 g, 3.77 mmol, 91% yield). LCMS: m/z 274.2 (M+H)+, 1.63 min (method 8). 1H NMR (500 MHz, MeOD) d ppm 9.22 (s, 1H) 7.47 (s, 1H) 7.39 (d, J=3.05 Hz, 1H) 6.62 (d, J=3.05 Hz, 1H) 4.03 (s, 3H) 4.00 (s, 3H).

reactant | 1-(4-Methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazole-3-carbonitrile | 4.16 mmol, 1 g | COC1=C2C(=C(N=C1)N1N=C(N=C1)C#N)NC=C2 | C11H8N6O
reactant | K2CO3 | 6.24 mmol, 0.863 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | MeOH | 20 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | methyl 1-(4-methoxy-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-1,2,4-triazole-3-carboxylate | 3.77 mmol, 1.03 g, 91% yield | COC1=C2C(=C(N=C1)N1N=C(N=C1)C(=O)OC)NC=C2 | C12H11N5O3
